US08106077B2
6-{4-[3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophene-3-carboxylic acid
To a solution of 6-{4-[3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophene-3-carboxylic acid methyl ester (0.14 g, 0.23 mmol) in a 1:1:1 mixture of THF, methanol, water (3 mL) is added LiOH (0.10 g, 2.36 mmol). The reaction is stirred for 18 h at room temperature. The reaction is adjusted to pH 3 with 1N HCl and extracted with EtOAc to yield the title compound (0.09 g, 66%). LC-ES/MS m/e 576.0 (M−1).

reactant | 6-{4-[3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophene-3-carboxylic acid methyl ester | 0.23 mmol, 0.14 g | COC(=O)C=1C2=C(SC1)C=C(C=C2)C2=C(C=C(C=C2)OCC=2N(N=NC2C(F)(F)F)C2=C(C=CC=C2Cl)Cl)C | C27H18Cl2F3N3O3S
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 2.36 mmol, 0.10 g | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | methanol | CO | CH4O
product | 6-{4-[3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-benzo[b]thiophene-3-carboxylic acid | 0.09 g, 66% | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C=1C=CC2=C(SC=C2C(=O)O)C1)C)C(F)(F)F | C26H16Cl2F3N3O3S
